US04337256
1-Amino-2-(2-methylphenyl)ethane and 2-chlorobenzoyl chloride were reacted in the same way as in step (a) of Example 1 to afford 1-(2-chlorobenzoyl)amino-2-(2-methylphenyl)ethane having a melting point of 90.4° to 90.9° C. The product was successively reacted in the same way as in steps (b), (c), (d) and (e) to afford 1-(2-chlorophenyl)isoquinoline-5-acetonitrile having a melting point of 112.8° to 113.3° C.

reactant | 1-Amino-2-(2-methylphenyl)ethane | NCCC1=C(C=CC=C1)C | C9H13N
reactant | 2-chlorobenzoyl chloride | ClC1=C(C(=O)Cl)C=CC=C1 | C7H4Cl2O
product | 1-(2-chlorobenzoyl)amino-2-(2-methylphenyl)ethane | ClC1=C(C(=O)NCCC2=C(C=CC=C2)C)C=CC=C1 | C16H16ClNO
